US06576762B2
d) N-(3,5-Bis-trifluoromethyl-benzyl)-N-methyl-4-o-tolyl-6-[1,2,4]triazol-1-yl-nicotinamide
A mixture of 1.00 g (2.05 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide and 1.42 g (20.5 mmol) 1,2,4-triazole was stirred at 130° C. for 36 h. After cooling to room temperature the crude mixture was purified by flash chromatography to give 0.93 g (87%) of the title compound as a white solid.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide | 2.05 mmol, 1.00 g | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)Cl)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H17ClF6N2O
reactant | 1,2,4-triazole | 20.5 mmol, 1.42 g | N1N=CN=C1 | C2H3N3
product | N-(3,5-Bis-trifluoromethyl-benzyl)-N-methyl-4-o-tolyl-6-[1,2,4]triazol-1-yl-nicotinamide | 0.93 g, 87% | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)N2N=CN=C2)=O)C)C=C(C1)C(F)(F)F)(F)F | C25H19F6N5O
